US07943669B2
Step A: {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(3-morpholin-4-yl-prop-1-ynyl)phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester
(4-{3-Bromo-5-[2-(4-chloro-phenyl)-ethoxy]-phenylsulfanyl}-2-methyl-phenoxy)acetic acid ethyl ester (300 mg; 0.56 mmol), 4-prop-2-ynyl-morpholine (280.4 mg; 2.2 mmol), bis(triphenylphosphine) palladium (II) chloride (31.4 mg; 0.045 mmol) and copper iodide (6.4 mg; 0.034 mmol) were dissolved in a mixture of triethylamine (2 mL) and DMF (2 mL) under an atmosphere of nitrogen. The reaction mixture was reacted in a microwave oven at 110° C. for 1.5 h. The reaction mixture was evaporated to dryness, and 5% aqueous citric acid (30 mL) and ethyl acetate (30 mL) was added. The two phases were separated and the aqueous phase was extracted with ethyl acetate (30 mL). The combined organic phases were dried and evaporated to dryness and purified by preparative HPLC (method B). Yield: 300 mg; 92%. HPLC-MS: m/z: 580.7 (M+H)+; Rt: 2.16 min.

reactant | (4-{3-Bromo-5-[2-(4-chloro-phenyl)-ethoxy]-phenylsulfanyl}-2-methyl-phenoxy)acetic acid ethyl ester | 0.56 mmol, 300 mg | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)OCCC1=CC=C(C=C1)Cl)Br)C)=O | C25H24BrClO4S
reactant | 4-prop-2-ynyl-morpholine | 2.2 mmol, 280.4 mg | C(C#C)N1CCOCC1 | C7H11NO
solvent | triethylamine | 2 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | bis(triphenylphosphine) palladium (II) chloride | 0.045 mmol, 31.4 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
catalyst | copper iodide | 0.034 mmol, 6.4 mg | [Cu](I)I
product | {4-[3-[2-(4-Chloro-phenyl)-ethoxy]-5-(3-morpholin-4-yl-prop-1-ynyl)phenylsulfanyl]-2-methyl-phenoxy}-acetic Acid Ethyl Ester | C(C)OC(COC1=C(C=C(C=C1)SC1=CC(=CC(=C1)C#CCN1CCOCC1)OCCC1=CC=C(C=C1)Cl)C)=O | C32H34ClNO5S
